US05474988
6.3 9 of nitric acid were added dropwise at room temperature with stirring to 12.4 g of 4-methoxyphenol in 120 ml of tetrahydrofuran. The reaction mixture was then stirred for half an hour. The solvent was subsequently evaporated and the residue remaining was purified by chromatography using dichloromethane as an eluent. 6.2 g of 2-nitro-4-methoxyphenol were obtained as a yellow powder having a melting point of 72° C.

reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | 4-methoxyphenol | 12.4 g | COC1=CC=C(C=C1)O | C7H8O2
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 2-nitro-4-methoxyphenol | 6.2 g | [N+](=O)([O-])C1=C(C=CC(=C1)OC)O | C7H7NO4
